US09290451B2
a) 6-Cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carboxylic acid
Under an atmosphere of nitrogen, a solution of 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid (Example 9 d, 0.4 g, 1.5 mmol), 1H-pyrazol-3-ylboronic acid (CAN 376584-63-3, 0.2 g, 1.8 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride methylene chloride complex (CAN 95464-05-4, 60 mg, 0.07 mmol) and sodium carbonate (1.3 g, 12 mmol) in DMF (10 mL) was heated to 100° C. for 5 h. The reaction mixture was poured into water and extracted with ethyl acetate (30 mL). The aqueous layer was adjusted to pH=2 by addition of 1 N hydrochloric acid and the resulting mixture was extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with water and brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by column chromatography (silica gel, 15 g, eluting with 30% ethyl acetate in petroleum ether) to yield the title compound (0.23 g, 1 mmol, 60.3%) as white solid; MS (EI): m/e 260.1 [M+H]+.

reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid | 1.5 mmol, 0.4 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
reactant | 1H-pyrazol-3-ylboronic acid | 1.8 mmol, 0.2 g | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | sodium carbonate | 12 mmol, 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride methylene chloride | 0.07 mmol, 60 mg | C(Cl)Cl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 6-Cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carboxylic acid | 1 mmol, 0.23 g, 60.3% | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1=NNC=C1 | C13H13N3O3
